US04486586
Diphenylmethyl 7-[(Z)-2-(1-t-Butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (VI-5')
Phosphorus pentachloride (1.46 g, 7 mmoles) was added to a suspension of (Z)-2-(1-t-butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetic acid [IV-5'] (4.09 g, 7 mmoles) in 70 mL of dry methylene chloride, and the mixture was stirred for 1 hour at room temperature. The acid chloride solution was added at -20° C. to a solution of silylated 7-ACA ester, which was prepared by adding BSA (5.6 mL, 21 mmoles) to a stirred suspension of benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride [V] (3.16 g, 7 mmoles) in dry methylene chloride (70 mL). The mixture was stirred for 20 minutes at -10° C. and then at room temperature for 40 minutes. The reaction mixture was evaporated and diluted with ethyl acetate (300 mL), and the organic layer was washed with 5% aqueous sodium bicarbonate, water and a saturated sodium chloride solution. After drying over sodium sulfate, the solvent was evaporated and the residue was purified by silica gel column chromatography (Wako gel C-200, 60 g); elution with chloroform. The fractions containing the desired product were combined and evaporated to obtain 5.88 g (86%) of VI-5' as a yellow powder.

reactant | Phosphorus pentachloride | 7 mmoles, 1.46 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | (Z)-2-(1-t-butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetic acid | C(C)(C)(C)OC(=O)C1(CCC1)O\N=C(/C(=O)O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H33N3O5S
reactant | benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate hydrochloride | 7 mmoles, 3.16 g | Cl.NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl 7-[(Z)-2-(1-t-Butoxycarbonylcyclobut-1-oxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | C(C)(C)(C)OC(=O)C1(CCC1)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C54H50ClN5O7S2
